US04732906
A mixture of 6,7-dihydroxy-3-phenyl-1,2-benzisoxazole (2.1 g), potassium carbonate (7.7 g), methyl dichloroacetate (2.7 g) and N,N-dimethylformamide (50 ml) was stirred at 90°-100° C. for 5 hours. After addition of water (100 ml), the mixture was stirred at 90°-100° C. for 30 minutes, and after acidifying it with hydrochloric acid, extracted with ether. The ether layer was washed with water, dried and evaporated to remove the solvent. The residue was recrystallized from acetonitrile to give 1.5 g of 3-phenyl-1,3-dioxolo[4,5-g]-1,2-benzisoxazole-7-carboxylic acid. m.p.: 187°-190° C.

reactant | 6,7-dihydroxy-3-phenyl-1,2-benzisoxazole | 2.1 g | OC1=C(C2=C(C(=NO2)C2=CC=CC=C2)C=C1)O | C13H9NO3
reactant | potassium carbonate | 7.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl dichloroacetate | 2.7 g | ClC(C(=O)OC)Cl | C3H4Cl2O2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-phenyl-1,3-dioxolo[4,5-g]-1,2-benzisoxazole-7-carboxylic acid | 1.5 g | C1(=CC=CC=C1)C1=NOC2=C1C=CC1=C2OC(O1)C(=O)O | C15H9NO5
